US07642264B2
4-{3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-thiazol-2-ylamine
The above described N,N-dimethyl-N′-(4-{3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-phenyl}-thiazol-2-yl)-formamidine (880 mg, 1.886 mmol) was treated with 3 M HCl (20 mL) in THF (20 mL) at 50° C. for 16 h. Added 2 N NaOH until pH 10 was reached, extracted twice with EtOAc, dried combined organic layer over Na2SO4, filtered off and evaporated totally to give a crude product, which was triturated with ether to give the title compound (750 mg, 53%) as a white solid. MS (ISP) 412.2 [(M+H)+]; mp>250° C.

reactant | N,N-dimethyl-N′-(4-{3-[6-methyl-4-(4-trifluoromethyl-phenyl)pyridin-2-yl]-phenyl}-thiazol-2-yl)-formamidine | 1.886 mmol, 880 mg | CN(C=NC=1SC=C(N1)C1=CC(=CC=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)C | C25H21F3N4S
reactant | HCl | 3 M, 20 mL | Cl | ClH
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-{3-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-thiazol-2-ylamine | 750 mg, 53% | CC1=CC(=CC(=N1)C=1C=C(C=CC1)C=1N=C(SC1)N)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N3S
